US05804585
B. N-(4-chloro-3-methyl-5-isoxazolyl)-2-[3,4-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3-sulfonamide
The title compound was prepared by the method of Example 4(D) using N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[3,4-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3-sulfonamide (0.14 g, 0.26 mmoles), methanol (6 ml) and 4N HCl (2 ml). Recrystallization from chloroform/hexanes provided 91 mg (76%) of the title compound as a tan crystalline solid, m.p. 163.5°-165° C.

reactant | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[3,4-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3-sulfonamide | 0.26 mmoles, 0.14 g | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)CC2=CC1=C(C=C2)OCO1)COCCOC)C | C23H22ClN3O7S2
reactant | HCl | 4N, 2 ml | Cl | ClH
solvent | methanol | 6 ml | CO | CH4O
product | N-(4-chloro-3-methyl-5-isoxazolyl)-2-[3,4-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3-sulfonamide | 91 mg, 76% | ClC=1C(=NOC1NS(=O)(=O)C1=C(SC2=NC=CC=C21)CC2=CC1=C(C=C2)OCO1)C | C19H14ClN3O5S2
